US09126931B2
8-(1,2-Dihydroxy-ethyl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
To the THF (1 ml) solution of 6,6-dimethyl-11-oxo-8-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound B2-24, 20 mg, 0.064 mmol), t-butanol solution of osmium tetraoxide (19 μl, 0.3 eq.) and 50% aqueous solution of N-methylmorpholine-N-oxide (30 μl, 2.0 eq.) were added and the mixture was stirred at room temperature for 3 hr. To the reaction solution, 10% aqueous solution of disodium ethylenediamine tetraacetic acid was added, followed by extraction with ethyl acetate. The organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by high performance liquid chromatography to obtain the title compound (21 mg, 63%).

reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | 6,6-dimethyl-11-oxo-8-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.064 mmol, 20 mg | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)C=C)C | C21H16N2O
reactant | N-methylmorpholine-N-oxide | 30 μl, 2.0 eq. | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | disodium ethylenediamine tetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.[Na].[Na]
catalyst | osmium tetraoxide | 19 μl, 0.3 eq. | [Os](=O)(=O)(=O)=O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 8-(1,2-Dihydroxy-ethyl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 21 mg, 63% | OC(CO)C=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C21H18N2O3
